US05112947
(2) H-Pro-Ser-Pip-Arg-OH acetate
150 mg of Z-Pro-Ser(Bzl)-Pip-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 12-(4). The resulting product was purified by high-performance liquid chromatography at 12 ml/min.(flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Pro-Ser(Bzl)-Pip-Arg(NO2)-OBzl | 150 mg | N1([C@H](C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC3=CC=CC=C3)CCCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C42H52N8O10
catalyst | palladium-carbon | [C].[Pd]
product | H-Pro-Ser-Pip-Arg-OH acetate | N1[C@H](C(=O)N[C@@H](CO)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCCC2)CCC1.CC(=O)O | InChI=1S/C20H35N7O6.C2H4O2/c21-20(22)24-9-4-6-13(19(32)33)25-17(30)15-7-1-2-10-27(15)18(31)14(11-28)26-16(29)12-5-3-8-23-12;1-2(3)4/h12-15,23,28H,1-11H2,(H,25,30)(H,26,29)(H,32,33)(H4,21,22,24);1H3,(H,3,4)/t12-,13-,14-,15-;/m0./s1
